US06939880B2
(2E)-5-Amino-N-((1R)-1-(N-((1R)-1-benzyl-2-((methylsulfonyl)amino)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-5-methyl-N-methylhex-2-enamide;
(3E)-4-(N-((1R)-1-(N-((1R)-1-Benzyl-2-(methylsulfonylamino)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enylcarbamic acid tert-butyl ester (729 mg, 1.07 mmol) was dissolved in dichloromethane (3 ml). The solution was cooled to 0° C. Trifluoroacetic acid (3 ml) was added. The reaction mixture was stirred for 15 min at 0° C. The solvents were removed in vacuo at 20° C. The residue was dissolved in dichloromethane (100 ml) and the solvent was removed in vacuo. The latter procedure was repeated two times. The crude product was purified by flash chromatography on silica (60 g), using dichloromethanelmethanol/25% aqueous ammonia as eluent, to give 440 mg of the title compound as free base.

reactant | (3E)-4-(N-((1R)-1-(N-((1R)-1-Benzyl-2-(methylsulfonylamino)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enylcarbamic acid tert-butyl ester | 1.07 mmol, 729 mg | C(C)(C)(C)OC(NC(C\C=C\C(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](CNS(=O)(=O)C)CC1=CC=CC=C1)=O)=O)(C)C)=O | C37H50N4O6S
reactant | Trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (2E)-5-Amino-N-((1R)-1-(N-((1R)-1-benzyl-2-((methylsulfonyl)amino)ethyl)-N-methylcarbamoyl)-2-(2-naphthyl)ethyl)-5-methyl-N-methylhex-2-enamide | 440 mg | NC(C/C=C/C(=O)N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)[C@@H](CNS(=O)(=O)C)CC1=CC=CC=C1)=O)(C)C | C32H42N4O4S
